US07524951B2
(3S,4R)-3-[(1R)-1-(tert-Butyldimethylsilyloxy)ethyl]-4-[(1R)-1-methyl-2-[7-dimethoxymethyl(pyridin-3-yl)imidazo[5,1-b]thiazol-2-yl]-2-oxoethyl]azetidin-2-one
Methylene chloride (2 ml) was added to 0.69 g of tin(II) trifluoromethanesulfonate under an argon atmosphere, and the mixture was cooled to −20° C. A solution of 0.25 g of 2-propionyl-7-(pyridin-3-yl)dimethoxymethylimidazo[5,1-b]thiazole in 1.5 ml of methylene chloride and 0.12 ml of N-ethylpiperidine were added thereto, and the mixture was stirred for 2 hr. A solution of 0.14 g of (3S,4R)-4-acetoxy-3-[(1R)-1-tert-butyldimethylsilyloxyethyl]azetidin-2-one in 1 ml of methylene chloride was added at 0° C., and the mixture was stirred at room temperature for one hr. A saturated aqueous sodium bicarbonate solution was added to the reaction mixture to stop the reaction, and the reaction mixture was extracted with ethyl acetate. The organic layer was washed with a 5% aqueous sodium bicarbonate solution and a 20% aqueous sodium chloride solution in that order and was dried over anhydrous magnesium sulfate. The solvent was removed by evaporation, and the residue was analyzed by HPLC (Cosmosil 5C18-MS, 4.6×150 mm, a 70% aqueous acetonitrile solution). As a result, it was found that the yield of (3S,4R)-3-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-[(1R)-1-methyl-2-[7-dimethoxy(pyridin-3-yl)methylimidazo[5,1-b]thiazol-2-yl]-2-oxoethyl]azetidin-2-one was 45 mg. The results of analysis by NMR were in agreement with the results of analysis in Example 18.

reactant | tin(II) trifluoromethanesulfonate | 0.69 g | FC(S(=O)(=O)[O-])(F)F.[Sn+2].FC(S(=O)(=O)[O-])(F)F
reactant | 2-propionyl-7-(pyridin-3-yl)dimethoxymethylimidazo[5,1-b]thiazole | 0.25 g | C(CC)(=O)C1=C(N2C(S1)=C(N=C2)C=2C=NC=CC2)C(OC)OC | C16H17N3O3S
reactant | (3S,4R)-4-acetoxy-3-[(1R)-1-tert-butyldimethylsilyloxyethyl]azetidin-2-one | 0.14 g | C(C)(=O)O[C@@H]1[C@@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C13H25NO4Si
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | N-ethylpiperidine | 0.12 ml | C(C)N1CCCCC1 | C7H15N
solvent | methylene chloride | 1.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | (3S,4R)-3-[(1R)-1-(tert-Butyldimethylsilyloxy)ethyl]-4-[(1R)-1-methyl-2-[7-dimethoxymethyl(pyridin-3-yl)imidazo[5,1-b]thiazol-2-yl]-2-oxoethyl]azetidin-2-one | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1[C@H](C(=O)C1=C(N2C(S1)=C(N=C2)C(OC)OC)C=2C=NC=CC2)C)=O | C27H38N4O5SSi
